US05480873
8-Fluoro-2-formyl-5-methoxy-1-tetralone (20 g) was dissolved in dioxan. 2,3-Dichloro-5,6-dicyanobenzoquinone (21 g) was added and the mixture was heated under reflux for 2 hours. The mixture was allowed to cool and was filtered to remove solids. The solvent was removed under reduced pressure and the residue taken up in ethyl acetate. The product solution was washed with saturated NaHCO3 (aq) (×3), dried (MgSO4), filtered and evaporated to give a dark solid. This material was recrystallised from ethyl acetate/hexane to give 1-hydroxy-5-methoxy-8-fluoro-2-naphthaldehyde, m.p. 156°-158° C.

reactant | 8-Fluoro-2-formyl-5-methoxy-1-tetralone | 20 g | FC=1C=CC(=C2CCC(C(C12)=O)C=O)OC | C12H11FO3
reactant | 2,3-Dichloro-5,6-dicyanobenzoquinone | 21 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 1-hydroxy-5-methoxy-8-fluoro-2-naphthaldehyde | OC1=C(C=CC2=C(C=CC(=C12)F)OC)C=O | C12H9FO3
